US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclohexanesulfonamide
N-[3-(5-(2-Chloro-4-pyrimidinyl)-2-{ethyl[2-(methyloxy)ethyl]amino}-1,3-thiazol-4-yl)-2-fluorophenyl]cyclohexanesulfonamide (148 mg, 0.275 mmol) was suspended in NH4OH (4 mL) and heated in microwave reactor at 120° C. for 48 min. The reaction was diluted with water and neutralized with 5% aqueous HCl and solid formed. A solid was diluted with DCM and water. The organic layer was dried over Na2SO4, filtered, added silica gel and concentrated. The crude product was chromatographed on silica gel eluting with 100% DCM to 1:1 [DCM:(9:1 EtOAC:MeOH)]. The clean fractions were combined and concentrated. The product was triturated in diethyl ether and filtered to obtain the title compound as a yellow powder (58 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.67 (s, 1H), 7.87 (d, J=5.3 Hz, 1H), 7.43-7.62 (m, 1H), 7.09-7.41 (m, 2H), 6.35-6.74 (m, 2H), 5.80 (d, J=5.3 Hz, 1H), 3.68 (t, J=4.6 Hz, 4H), 3.43 (t, J=4.6 Hz, 4H), 2.81-3.02 (m, 1H), 1.69 (d, J=12.5 Hz, 2H), 1.51 (br. s., 1H), 1.33 (qd, J=12.1, 2.2 Hz, 2H), 0.89-1.22 (m, 5H). MS (ESI): 518.9 [M+H]+.

reactant | N-[3-(5-(2-Chloro-4-pyrimidinyl)-2-{ethyl[2-(methyloxy)ethyl]amino}-1,3-thiazol-4-yl)-2-fluorophenyl]cyclohexanesulfonamide | 0.275 mmol, 148 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N(CCOC)CC)C=1C(=C(C=CC1)NS(=O)(=O)C1CCCCC1)F | C24H29ClFN5O3S2
reactant | NH4OH | 4 mL | [NH4+].[OH-]
solvent | water | O | H2O
solvent | HCl | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclohexanesulfonamide | 58 mg, 41% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1CCCCC1)F | C23H27FN6O3S2
